US05824691
The mixture of 3-(5-amino-4-ethoxycarbonylpyrazol-1-yl)benzoic acid (5.9 g) and sodium hydroxide (2.1 g) in water (15 ml) was stirred for 2 hours at 80° C. To the reaction mixture was added water and the mixture was adjusted to pH 3.5 with 6N-hydrochloric acid. The isolated precipitate was collected by filtration washed with water and dried to give 3-(5-amino-4-carboxypyrazol-1-yl)benzoic acid (5.1 g).

reactant | 3-(5-amino-4-ethoxycarbonylpyrazol-1-yl)benzoic acid | 5.9 g | NC1=C(C=NN1C=1C=C(C(=O)O)C=CC1)C(=O)OCC | C13H13N3O4
reactant | sodium hydroxide | 2.1 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 3-(5-amino-4-carboxypyrazol-1-yl)benzoic acid | 5.1 g | NC1=C(C=NN1C=1C=C(C(=O)O)C=CC1)C(=O)O | C11H9N3O4
